US05843975
5.2. 6-(Phenylmethoxy)-1,2-benzisoxazol-3-ylamine
20.2 g (0.072 mol) of 2-[[(1-methylethylidene) amino]oxy]-4-(phenylmethoxy)benzonitrile are reacted with 340 ml of a 4N solution of hydrochloric acid in ethanol for 20 hours and then the solvent is evaporated. The crystalline product is subsequently triturated in dichloromethane, then the mixture is filtered and the solid is dissolved in the minimum amount of lukewarm methanol. The solution is alkalified with ammonia and then diluted with water. After filtration and washing with water, 16.3 g of product are obtained.

reactant | 2-[[(1-methylethylidene) amino]oxy]-4-(phenylmethoxy)benzonitrile | 0.072 mol, 20.2 g | CC(C)=NOC1=C(C#N)C=CC(=C1)OCC1=CC=CC=C1 | C17H16N2O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 6-(Phenylmethoxy)-1,2-benzisoxazol-3-ylamine | C1(=CC=CC=C1)COC1=CC2=C(C(=NO2)N)C=C1 | C14H12N2O2
